US09216999B2
Benzyl {trans-4-[methoxy(methyl)carbamoyl]cyclohexyl}carbamate
Benzyl chloroformate (885 μL, 6.30 mmol) was gradually added dropwise to trans-4-aminocyclohexanecarboxylic acid (600 mg, 4.20 mmol) and sodium carbonate (891 mg, 8.40 mmol) in water (12 mL) under cooling with ice, and the reaction mixture was stirred for one day. After addition of 1 M aqueous sodium hydroxide and ethyl acetate, the insoluble solid was collected by filtration to give a colorless solid. The solid was dissolved in chloroform (10 mL) and stirred with N,O-dimethylhydroxylamine hydrochloride (416 mg, 4.27 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (819 mg, 4.27 mmol), 1-hydroxybenzotriazole (577 mg, 4.27 mmol) and triethylamine (892 μL, 6.40 mmol) at room temperature for one day. After addition of water and saturated aqueous sodium chloride, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1 (v/v)) to give the title compound as a colorless solid (350 mg, yield 26%).

reactant | Benzyl chloroformate | 6.30 mmol, 885 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | trans-4-aminocyclohexanecarboxylic acid | 4.20 mmol, 600 mg | N[C@@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | sodium carbonate | 8.40 mmol, 891 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.27 mmol, 416 mg | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.27 mmol, 819 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 4.27 mmol, 577 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 6.40 mmol, 892 μL | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 12 mL | O | H2O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl {trans-4-[methoxy(methyl)carbamoyl]cyclohexyl}carbamate | 350 mg, yield 26% | CON(C(=O)[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O)C | C17H24N2O4
